US08809352B2
(S)-1-(4′-Chloro-biphenyl-2-ylmethyl)-2-methyl-piperidin-4-one
(S)-2-Methyl-piperidin-4-one hydrochloride (100 mg, 0.67 mmol) was combined with K2CO3 (554 mg, 4.0 mmol) in acetonitrile (5.0 mL) and stirred for 15 minutes. 4′-Chloro-2-(iodomethyl)biphenyl (220 mg, 0.668 mmol) was added, and the resulting mixture was heated to 70° C. and stirred for 16 hours. The reaction was cooled to room temperature, filtered, and concentrated. The crude residue was purified by flash chromatography on silica gel (heptanes/EtOAc gradient) to afford the title compound as an off-white solid (178 mg, 85% yield). MS (ESI) m/e (M+H+): 313.8

reactant | (S)-2-Methyl-piperidin-4-one hydrochloride | 0.67 mmol, 100 mg | Cl.C[C@@H]1NCCC(C1)=O
reactant | K2CO3 | 4.0 mmol, 554 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 4′-Chloro-2-(iodomethyl)biphenyl | 0.668 mmol, 220 mg | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CI | C13H10ClI
solvent | acetonitrile | 5.0 mL | C(C)#N | C2H3N
product | (S)-1-(4′-Chloro-biphenyl-2-ylmethyl)-2-methyl-piperidin-4-one | 178 mg, 85% yield | ClC1=CC=C(C=C1)C1=C(C=CC=C1)CN1[C@H](CC(CC1)=O)C | C19H20ClNO
